US06949577B2
1-n-Butyl-1H-imidazole-4-carboxaldehyde
Imidazole-4-carboxaldehyde (10 g, 104 mmol) was added portionwise to a solution of sodium hydride (4.56 g, 60% dispersion in mineral oil, 114 mmol) in tetrahydrofuran (150 ml), and the solution stirred for 30 minutes. n-Butyl bromide (15.7 g, 114 mmol) was added portionwise, followed by 18-crown-6 (50 mg), and the reaction heated under reflux for 18 hours. Aqueous ammonium chloride solution was added to the cooled reaction and the mixture extracted with ethyl acetate (2×) and dichloromethane (2×). The combined organic extracts were then dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a solvent gradient of pentane:ethyl acetate (50:50 to 25:75), to give the title compound, 4.45 g, 28% yield.

reactant | Imidazole-4-carboxaldehyde | 104 mmol, 10 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | sodium hydride | 114 mmol, 4.56 g | [H-].[Na+]
reactant | n-Butyl bromide | 114 mmol, 15.7 g | C(CCC)Br | C4H9Br
reactant | 18-crown-6 | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-n-Butyl-1H-imidazole-4-carboxaldehyde | 28% yield | C(CCC)N1C=NC(=C1)C=O | C8H12N2O
